Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
back pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old F w/ type I DM, psoriasis, and hx of 
pyelonephritis presenting with L-sided flank pain for two days. 
She developed severe L-sided flank pain, chills, night sweats, 
and fevers to 102.4 at home. She denies any dysuria or urinary 
frequency, but notes that she did not have these symptoms last 
time she had a UTI either. she has had poor PO intake during 
this time. Denies any vaginal discharge or recent sexual 
activity. She does feel mildly lightheaded, but denies any 
pre-syncope or syncope. No cough, CP, SOB, N/V, diarrhea. 
In the ED, she was febrile to 102.3 and tachycardic to 129 with 
a BP of 111/69. She was given 1L NS. Her UA was grossly 
inflammatory, she had a leukocytosis, and L CVA tenderness, so 
she was started on ceftriaxone for presumed pyelonephritis. A 
renal US was performed which showed a right-sided kidney stone, 
but no obstructions. She was given phenazopyridine, IV morphine, 
and IV ketorolac for pain. 
Upon arrival to the floor, the patient reports that her pain is 
feeling much better. She is requesting schedule pain medications 
overnight, as she had to wait for over an hour in the ED and was 
in an extreme amount of pain. 
 
Past Medical History:
Type I DM 
ADD 
Genital HSV 
Psoriasis 
Pyelonephritis 
 
Social History:
___
Family History:
Aunt and uncle with SLE 
Multiple maternal family members with type I DM 
Mother with nephrolithiasis 
 
Physical Exam:
ADMISSION EXAM
==============
VITALS: 98.5 PO 102 / 70 107 17 100 Ra 
GENERAL: Young woman sitting up in bed in no acute distress 
HEENT: PERRL. EOMI. Sclera anicteric. MMM. No oral lesions 
CV: Tachycardic. Regular rhythm, normal S1 + S2, no murmurs, 
rubs, gallops 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi 
ABDOMEN: Soft, non-tender, non-distended, normoactive BS, no 
organomegaly, no rebound or guarding 
BACK: Bilateral CVA tenderness (L>>R) 
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
SKIN: Warm, dry. Multiple scaly, red plaques on all extremities 
NEURO: AAOx3, CNII-XII grossly intact, moves all four 
extremities with purpose. 

DISCHARGE EXAM
==============
VITALS: T 98.3, BP 92/64, RH 98, RR 16, SpO2 97/ RA
GENERAL: Young woman lying in bed, NAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi 
ABDOMEN: Soft, non-tender, non-distended, normoactive BS, no 
organomegaly, no rebound or guarding 
BACK: Mild bilateral CVA tenderness (L>>R) (reporting pain with 
palpation but not flinching or jumping)
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
SKIN: Warm, dry. Multiple scaly, red plaques on all extremities 
NEURO: AAOx3, CNII-XII grossly intact, moves all four 
extremities with purpose. 
 
Pertinent Results:
___ LABS
=============
___ 04:00PM   WBC-10.5* RBC-4.09 HGB-11.5 HCT-33.3* MCV-81* 
MCH-28.1 MCHC-34.5 RDW-12.2 RDWSD-36.2
___ 04:00PM   NEUTS-84.8* LYMPHS-6.9* MONOS-7.5 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-8.88* AbsLymp-0.72* AbsMono-0.78 
AbsEos-0.00* AbsBaso-0.02
___ 04:00PM   PLT COUNT-267
___ 04:00PM   GLUCOSE-241* UREA N-10 CREAT-0.6 SODIUM-135 
POTASSIUM-3.7 CHLORIDE-100 TOTAL CO2-21* ANION GAP-14
___ 04:13PM   LACTATE-1.4
___ 05:43PM URINE  RBC-6* WBC->182* BACTERIA-MOD* 
YEAST-NONE EPI-0
___ 05:43PM URINE  WBCCLUMP-MOD* MUCOUS-MANY*
___ 05:43PM URINE  BLOOD-SM* NITRITE-POS* PROTEIN-30* 
GLUCOSE-1000* KETONE-TR* BILIRUBIN-SM* UROBILNGN-2* PH-6.5 
LEUK-LG*
___ 05:43PM URINE  COLOR-AMBER* APPEAR-Cloudy* SP 
___
___ 05:43PM URINE  UCG-NEGATIVE

MICRO
=====
__________________________________________________________
___ 6:40 pm BLOOD CULTURE      2 OF 2. 

   Blood Culture, Routine (Pending___: 
__________________________________________________________
___ 5:43 pm URINE

   URINE CULTURE (Pending): 
__________________________________________________________
___ 4:00 pm BLOOD CULTURE      #1. 

   Blood Culture, Routine (Pending): 

DISCHARGE LABS
==============
___ 06:03AM BLOOD WBC-7.6 RBC-3.68* Hgb-10.3* Hct-30.5* 
MCV-83 MCH-28.0 MCHC-33.8 RDW-12.3 RDWSD-37.7 Plt ___
___ 06:03AM BLOOD Glucose-282* UreaN-10 Creat-0.6 Na-134* 
K-4.3 Cl-99 HCO3-24 AnGap-11

IMAGING/STUDIES
===============
___ Imaging RENAL U.S.
1. 6 mm nonobstructing stone in the mid right kidney.
2. No hydronephrosis.
3. Intraluminal debris within the bladder may reflect cystitis.
 
Brief Hospital Course:
Ms. ___ is a ___ year old F w/ type I DM, psoriasis, and hx of
pyelonephritis presenting with L-sided flank pain for two days,
found to have findings concerning for sepsis ___ pyelonephritis. 


ACUTE/ACTIVE PROBLEMS: 
======================
# Sepsis ___ pyelonephritis
Patient with bilateral flank pain and grossly inflammatory UA on 
presentation. Febrile to 102.3 with HR in 120s-130s on arrival 
to ED - responsive to IVF and acetaminophen. Required several 
doses of narcotic pain medication to achieve adequate pain 
control. Started on IV ceftriaxone on ___ with rapid 
improvement in symptoms and vital signs. Transitioned to 
ciprofloxacin 500mg q12h with plan to complete ___nding ___. Continue outpatient pain control with 
acetaminophen and ibuprofen. She is at risk for recurrent 
infections give type I DM and nephrolithiasis, unfortunately. 

CHRONIC/STABLE PROBLEMS: 
========================
# Type I DM
Continued home insulin regimen.

# ADD
Home Vyvanse is non-formulary at ___ - can resume following 
discharge.

TRANSITIONAL ISSUES
===================
[ ] Discharged with ciprofloxacin 500mg q12h to complete 7-day 
course of antibiotics (last day ___.
[ ] Has 6mm R renal stone, non-obstructing.
[ ] Consider urology follow-up as this is second episode of 
pyelonephritis (in otherwise healthy ___ year-old).
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vyvanse (lisdexamfetamine) 60 mg oral DAILY 
2. Glargine 25 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 6 Days  
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
4.  Glargine 25 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
5.  Vyvanse (lisdexamfetamine) 60 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
Pyelonephritis
Sepsis

SECONDARY DIAGNOSIS
===================
Type I diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
WHY WERE YOU ADMITTED TO THE HOSPITAL?
- You had a kidney infection (called pyelonephritis) and were 
very dehydrated.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You had an ultrasound of your kidney, which showed a small 
stone in your right kidney (likely unrelated to your kidney 
infection, which is on the left).
- You were given IV fluid.
- You were started on antibiotics to treat your kidney 
infection.

WHAT WILL HAPPEN WHEN YOU LEAVE THE HOSPITAL?
- Continue to take your antibiotic, called ciprofloxacin, 
through the end of the day on ___ - this will complete your 
treatment for pyelonephritis.
- Continue to eat and drink plenty of fluids.
- You may take acetaminophen (two 500mg (extra strength) pills 
three times a day) and ibuprofen (two 200mg pills three times a 
day) over the next few days to help the pain; the pain should go 
away as your infection resolves.
 
Followup Instructions:
___